US05354781
N-Cyclohexyl-N-methyl-3-(3-chloro-4-cyclohexylphenyl)prop-2-ynylamine hydrochloride.
A solution containing 16.4 g of 3-chloro-4-cyclohexyl-1-ethynylbenzene, prepared above, in 30 ml of dioxane, 4.5 g of paraformaldehyde and 0.15 g of cuprous chloride is heated to 60° C. and 9.3 g of N-methyl-N-cyclohexylamine are then added over half an hour. The temperature is kept at 60° C. for 1 hour. When the reaction is complete, the cooled mixture is diluted with ether and treated with water and then with a dilute solution of hydrochloric acid. The acid solution is then rendered alkaline with a dilute solution of sodium hydroxide and extracted with ether. The organic phase is dried over sodium sulfate and then concentrated. The hydrochloride is prepared from the crude base, washed with water and then crystallized twice from acetonitrile to give 8.4 g of the expected compound.

reactant | 3-chloro-4-cyclohexyl-1-ethynylbenzene | 16.4 g | ClC=1C=C(C=CC1C1CCCCC1)C#C | C14H15Cl
reactant | paraformaldehyde | 4.5 g | C=O | CH2O
reactant | N-methyl-N-cyclohexylamine | 9.3 g | CNC1CCCCC1 | C7H15N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | N-Cyclohexyl-N-methyl-3-(3-chloro-4-cyclohexylphenyl)prop-2-ynylamine hydrochloride | 8.4 g | Cl.C1(CCCCC1)N(C)CC#CC1=CC(=C(C=C1)C1CCCCC1)Cl | InChI=1S/C22H30ClN.ClH/c1-24(20-12-6-3-7-13-20)16-8-9-18-14-15-21(22(23)17-18)19-10-4-2-5-11-19;/h14-15,17,19-20H,2-7,10-13,16H2,1H3;1H
